data/nitro/train.csv
rxn,smiles,ea
31,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])([C:27]([H:28])([H:29])[H:30])[C:31]([H:32])([H:33])[H:34]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[c:16]1[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]([H:24])[c:25]1[H:26])([C:27]([H:28])([H:29])[H:30])[C:31]([H:32])([H:33])[H:34],-6.499577469228488
158,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[H:20])(\[C:21]([H:22])([H:23])[H:24])[c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[H:20])([C:21]([H:22])([H:23])[H:24])[c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35],0.9218158098527204
899,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[Br:14])(\[H:15])[Br:16]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[Br:14])([H:15])[Br:16],-10.103799242832316
252,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Cl:17])([Cl:18])[Cl:19]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[Cl:17])([Cl:18])[Cl:19],-3.663161227944828
515,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[H:14])([Br:15])[Br:16]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[H:14])([Br:15])[Br:16],-10.717597634420724
496,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])([Br:23])[Br:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[Cl:22])([Br:23])[Br:24],-3.464215624148126
653,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Cl:24])(\[c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[Cl:36]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])[H:23])[Cl:24])([c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35])[Cl:36],-12.300019650426504
266,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[H:11])[c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])([Cl:23])[Cl:24]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[c:12]1[c:13]([H:14])[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]1[H:22])([Cl:23])[Cl:24],-14.719922085501096
124,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[C:17]([H:18])([H:19])[H:20])(\[C:21]([H:22])([H:23])[H:24])[c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[C:17]([H:18])([H:19])[H:20])([C:21]([H:22])([H:23])[H:24])[c:25]1[c:26]([H:27])[c:28]([H:29])[c:30]([H:31])[c:32]([H:33])[c:34]1[H:35],3.1276176600793875
41,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18])(\[C:19]([H:20])([H:21])[H:22])[Cl:23]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18])([C:19]([H:20])([H:21])[H:22])[Cl:23],-5.922898772663028
163,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17])(\[C:18]([H:19])([H:20])[H:21])[H:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17])([C:18]([H:19])([H:20])[H:21])[H:22],-7.9030808464569535
486,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23])([Br:24])[Br:25]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[C:20]([H:21])([H:22])[H:23])([Br:24])[Br:25],-1.475280421241185
